* OVERALL BEST CANDIDATE: 00_Phase_2_48V_Telecom_to_5V_Buck_9_6_1_g2_cand4_b4
* FITNESS SCORE: 0.9649
*
* Generated: 2026-06-01T00:18:12
* Constraint: Phase 2: 48V Telecom to 5V (Buck - 9.6:1)
*   vin_min = 40
*   vin_max = 56
*   vout_target = 5
*   efficiency_target = 0.86
*   power_in = 50
* Candidate: 8 of 8
* Grouped name: g2_cand4
*
* 5V to 40V Buck, D=833m, t_on=8.33u
Vin in 0 5
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 22u
C1 out 0 100u
Rload out 0 6
Vgate gate 0 PULSE(0 12 0 1n 1n 8.33u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
