* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_6
* Fitness: 0.9901
*
* --- Active Constraints ---
* _comment: Phase 2: 48V Telecom to 5V (Buck - 9.6:1)
* vin_min: 40
* vin_max: 56
* vout_target: 5
* efficiency_target: 0.86
* power_in: 50
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 4.171849
* efficiency: 1.000000
* total_volume_cm3: 24.000000
* total_components: 4
* ============================

* 40V to 5V Buck, 50V->5V D=111m, Rload=500m
Vin in 0 40
M1 in gate sw sw NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 100u
C1 out 0 470u
Rload out 0 500m
Vgate gate sw PULSE(0 12 0 1n 1n 1.11u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end